US08030487B2
Synthesis of 2-Chloro-5-(Nicotinamido)Benzoyl Chloride (Intermediate 40)
To a solution of 5-amino-2-chlorobenzoic acid (1.71 g, 10 mmol) and TEA (6.96 mL, 50 mmol) in THF (50 mL) was added nicotinoyl chloride hydrochloride (1.78 g, 10 mmol) solid portion-wise. After 1 h stirring at room temperature, product was isolated through filtration as a white solid. The solid was washed with water and dried (1.85 g, 67%). The solid, 2-chloro-5-(nicotinamido)benzoic acid (1.0 g, 3.62 mmol) was suspended in dichloromethane (50 mL) and treated with thionyl chloride (1.57 mL, 36.2 mmol) at reflux for 6 hr. The reaction mixture was evaporated, and the residue was dissolved in hexane-ethyl acetate mixture (100 mL, 6:4) and quickly filtered through a short silica plug. On evaporation of solvent, the title compound was obtained as a white solid (873 mg, 82%).

reactant | 5-amino-2-chlorobenzoic acid | 10 mmol, 1.71 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | nicotinoyl chloride hydrochloride | 10 mmol, 1.78 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 2-chloro-5-(nicotinamido)benzoic acid | 3.62 mmol, 1.0 g | ClC1=C(C(=O)O)C=C(C=C1)NC(C1=CN=CC=C1)=O | C13H9ClN2O3
reactant | thionyl chloride | 36.2 mmol, 1.57 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-Chloro-5-(Nicotinamido)Benzoyl Chloride | ClC1=C(C(=O)Cl)C=C(C=C1)NC(C1=CN=CC=C1)=O | C13H8Cl2N2O2
